**$ENCRYPTED_LIB
**$INTERFACE
**************************************************************
* Library of Battery
* Copyright Cadence Design Systems 2011, Inc.  All Rights Reserved.
* This model is subject to change without notice. A number of simplifications
* were made to speed up the model. Cadence Design Systems, Inc 
* is not responsible for any deviation between actual device behavior and 
* results obtained from simulation.
**************************************************************
*$
.SUBCKT MX1500 + -  
$CDNENCSTART
eee8c5c7a2bc4b01f045f303678664e7916da0bae22e8cb0bba041dd67c69ce448ea70148a9ac1670c8926c1ac5057c8ccfcd77bf87ca9dccf412e4ffb6a107f
3d438685e8d81df057e5c430761c23ec412f24fc0a1d812726b881c3420738f58ba0bc40a07d4660644126c9831a96bd8f6c7381a83de094c7f752e7c5f996c6
dd1d58977f4b80a3706b807646b803719b4f29cdbe7978c1ce5ec34e6f8ad1caed6acfb3d5537b37fc32cf648b9f1c17c91248cb190b11a7889f644077717ee7
5f41a7a4794b5367af14b7c938fb7d388d684fb7276aacfb9f7df7e1d853713739195f1b48bea3a4613ba3d77a151f40238572ec8b26e5fae18858fd39cebdc6
2f646e0e8d7ca9fb5afe4f8e0010b28d39aa1e61b190339b6b574213c15e8d89fe29ecd80e41e7e0cce6dc920546fa1cd39344765bbde7580822c3337f49d6e5
94735555ffb7d7fb8265638004fd49a0036b43d4a24e0739704945dcda4038414695a3176742053e95c49853d3ea4275f31a84da9e186a368929a1dde92f1114
93229801b81d218bb5148deee6ec0297e5249bf448dad1a617dad303008a74abc9e7227f7cc3f84e11247ab54d12f6c6ecea3e8f5f017bd5bc950908fe23b843
b8b56863f55c875e7674bbc8caf0d23d79722f2428bd4c0658a1e44f0e99cefdd8d22b30bab2f931a0e02d731ae92e3ec4ef652b383eb1b967d608447c34b021
bc9ad71955c404da529a3390617dcc57269328e15903e3628f6c7381a83de094d50cebd62d6dc46ba7173d6bac141e7e68c0d3ba12f399a2fe8912de72674a9e
6bfd70e0a46125d98129538e7e2561df602cd71fdb8e3ae42bc0f11a36e3c9149dbf723e32c3383631af855674cea0a96f40629f1a47796fb61300ad54d3defc
554ec362da6b9b7218d242432feb24ce4d5931f69206d7333a399b03e40e27333db12a3a027ddab51317d481061d405546e73b461ef29a5b4a9b7826973e6f4d
6bfd70e0a46125d98129538e7e2561df248bb9f6a3b106b65ef65512fbbb74a83f9b21839400225e53d2b7cb2215982df4d3919892abc65e06cd7a784ee40e6c
ed76dd83d9636901238572ec8b26e5fa6efd1e08d860a90a52cbe92dfd13c711fffcf5b82445159e3ad94c8a9b6c1046b0e68d68a4d5e0f0fe661903a37f3087
6bfd70e0a46125d99dbf723e32c3383670807e09e00ad99e1546542d6cdc28540336ccfc03bbe31128e5cf627a084c9328bf843eb50514cd1aabfa10941d45cf
8ef465a6357e1995706b807646b803713aba1c2ce54d37e6a7755d432068c41dea3af1572a918418a603fa2938306cebe790c16bb53f0e6840255614bc436b13
66daf9ac6645d351eca898730d228a4e818e1ebe19b8cdf27f20537ce108d11a0ad9c0379fe2f009790e50c20869b4724d5931f69206d733c4405720ff5d246d
0e93a9674d9c6bf6706b807646b803713aa1b75d1e7fa4d161d3dca52a82cde27f2dbfd34e75177f7ff91d9b4f9ef15a4eb70d6f8506973dd38aff4e12555a5d
039bc6b90532a78c706b807646b80371f08df31fd15b307961d3dca52a82cde27f2dbfd34e75177f911e086518e59e34e7d83d4b6847f9fc28b650088765d5a5
93d3808648446fd77c3f8de1aca77c88dd3391e0d2e88ec70cd3bb104f6672ee00d3e0b087c73744238572ec8b26e5fa6efd1e08d860a90abb4548adc23f4c6b
$CDNENCFINISH
.ENDS
*$
.subckt MX1500_H1 1 2 3 4  
$CDNENCSTART
eee8c5c7a2bc4b01f045f303678664e7916da0bae22e8cb0bba041dd67c69ce448ea70148a9ac1670c8926c1ac5057c8ccfcd77bf87ca9dccf412e4ffb6a107f
2abee8045ea05af631820e631d1d1d745631fdfe31f523f9e5249bf448dad1a617dad303008a74abc9e7227f7cc3f84e11247ab54d12f6c643aa87e2f6cc1b35
32ee4cbc53dd07ef6f31076d2b37e96b3a7bc5327c69eeaf238572ec8b26e5fa6efd1e08d860a90a52cbe92dfd13c711fffcf5b82445159ea4272785e8cbf33d
$CDNENCFINISH
.ends MX1500_H1
*$

**NICD battery Discharge test
.SUBCKT NICD +OUTPUT -OUTPUT SOC RATE CELL_TEMP
+ PARAMS: CAPACITY=1, RESISTANCE=1, CELLTEMP=25, VOLUME=1, WT=1
E_RATE RATE 0 VALUE { {I(V_Sense)/CAPACITY} }
R_R2   RATE 60  1 TC=0,0 
C_C1 60 0  3  TC=0,0 
E_LowRate LOWRATE 0 TABLE { V(RATE) } 
+ ( (0,0) (0.001,0.2) (0.1,0.2) (1,0) )
R_R3  LOWRATE 0  1G TC=0,0 
G_LowRate  0 50 VALUE { V(LowRate)*I(V_Sense) }
G_Discharge  SOC 0 VALUE { I(V_Sense) }
E_LostRate    50 SOC TABLE { V(60) } 
+ ( (1.0,0) (10,0.25) )
C_CellCapacity 50 0  {3600*CAPACITY*1.03}  TC=0,0 
R_R1 50 0  1G TC=0,0 
E_Temp_Rise 70 0 VALUE {PWR(I(V_Sense),2)*RESISTANCE*(13.4*PWR(VOLUME,0.6065))} 
V_Ambient   80 70 DC {CELLTEMP}  
R_Thermal   CELL_TEMP 80  { 2.65 * WT } TC=0,0 
C_C2        CELL_TEMP 0  1  TC=0,0 
R_Cell      20 30  {RESISTANCE} TC=0,0 
E_Temp      10 20 TABLE { V(CELL_TEMP) } 
+ ( (0,-0.025) (25,0) (60,-0.100) )
V_Sense   -OUTPUT 30 DC 0  
E_Invert   INVERT 0 TABLE { V(SOC) } 
+ ( (0,1) (1,0) ) 
R_R4         INVERT 0  1G TC=0,0 
E_Cell +OUTPUT 10 TABLE { V(Invert) }
+( (0.0000000000E+00 1.3148600000E+00) (1.7391197842E-03 1.3114600000E+00)
+ (8.6956352158E-03 1.3008400000E+00) (1.7391252284E-02 1.2910200000E+00)
+ (3.1304265000E-02 1.2794000000E+00) (4.8695517284E-02 1.2685600000E+00)
+ (6.4347649784E-02 1.2608600000E+00) (9.2173675215E-02 1.2504800000E+00)
+ (1.3739093478E-01 1.2401000000E+00) (2.9217314000E-01 1.2300000000E+00)
+ (4.9738998228E-01 1.2199000000E+00) (6.0347665207E-01 1.2099000000E+00)
+ (7.3738938358E-01 1.1909200000E+00) (7.8782396620E-01 1.1801600000E+00)
+ (8.2086740543E-01 1.1705000000E+00) (8.4695429293E-01 1.1602800000E+00)
+ (8.6608462870E-01 1.1501000000E+00) (8.7999764142E-01 1.1403000000E+00)
+ (8.9043241457E-01 1.1309800000E+00) (8.9912806793E-01 1.1212400000E+00)
+ (9.0782372129E-01 1.1090600000E+00) (9.1304106250E-01 1.1001000000E+00)
+ (9.1825840370E-01 1.0899000000E+00) (9.2347583564E-01 1.0784600000E+00)
+ (9.2695405706E-01 1.0705000000E+00) (9.3217141642E-01 1.0586000000E+00)
+ (9.3564971043E-01 1.0508000000E+00) (9.3912795000E-01 1.0430000000E+00)
+ (9.4434529120E-01 1.0303200000E+00) (9.4782360336E-01 1.0207400000E+00)
+ (9.5130184293E-01 1.0102600000E+00) (9.5304094457E-01 1.0046200000E+00)
+ (9.5478006435E-01 9.9866000000E-01) (9.5651918413E-01 9.9248000000E-01)
+ (9.5825830392E-01 9.8596000000E-01) (9.5999749629E-01 9.7910000000E-01)
+ (9.6173659793E-01 9.7178000000E-01) (9.6347571771E-01 9.6386000000E-01)
+ (9.6521483750E-01 9.5520000000E-01) (9.6695395728E-01 9.4556000000E-01)
+ (9.6869307707E-01 9.3460000000E-01) (9.7043217870E-01 9.2192000000E-01)
+ (9.7217137108E-01 9.0686000000E-01) (9.7391049086E-01 8.8908000000E-01)
+ (9.7564961064E-01 8.6722000000E-01) (9.7738873043E-01 8.3990000000E-01)
+ (9.7912783206E-01 8.0636000000E-01) (9.8086695185E-01 7.6520000000E-01)
+ (9.8260607163E-01 7.1436000000E-01) (9.8434519142E-01 6.6000000000E-01)
+ (9.8608438379E-01 6.0778000000E-01) (9.8782348543E-01 5.5698000000E-01)
+ (9.8956260521E-01 5.0776000000E-01) (9.9130172500E-01 4.5810000000E-01)
+ (9.9304084478E-01 4.0860000000E-01) (9.9477996457E-01 3.5850000000E-01)
+ (9.9651906620E-01 3.0526000000E-01) (9.9825825858E-01 2.4604600000E-01)
+ (9.9999737836E-01 1.8616600000E-01) (1.0000000000E+00 0.0000000000E+00))
.IC         V(60)=0
.IC         V(50)=1
.ENDS
*$
*PSpice Nickel-Metal-Hydride battery discharge mode
.SUBCKT NIMH +OUTPUT -OUTPUT SOC RATE
+ PARAMS: CAPACITY=1, RESISTANCE=1
E_Rate RATE 0 VALUE = {I(V_Sense)/CAPACITY}
R2 RATE 60 1 ; R2-C2 provide 3 second delayed time constant
C1 60 0 3
E_LowRate LowRate 0 TABLE {V(RATE)} = (0,0) (0.001,0.15) (0.1,0.1) (0.2,0)
R3 LowRate 0 1G
G_LowRate 0 50 VALUE = {V(LowRate)*I(V_Sense)}
G_Discharge SOC 0 VALUE = { I(V_Sense) } ; Discharge Current
E_LostRate 50 SOC TABLE { V(60) } = (0.2,0.0) (1.0,0.15) (5,0.2)
C_CellCapacity 50 0 { 3600 * CAPACITY * 1.01 }
R1 50 0 1G
R_Cell 20 30 { RESISTANCE }
V_Sense -OUTPUT 30 0
E_Invert Invert 0 TABLE { V(SOC) } = (0,1) (1,0)
R4 Invert 0 1G
E_Cell +OUTPUT 20 TABLE { V(Invert) } =
+(0.0000E+00 1.3346E+00) (7.0989E-03 1.3244E+00) (1.6327E-02 1.3144E+00)
+(2.9283E-02 1.3042E+00) (4.2593E-02 1.2942E+00) (6.8859E-02 1.2841E+00)
+(1.3008E-01 1.2733E+00) (4.3605E-01 1.2633E+00) (5.1165E-01 1.2532E+00)
+(5.8033E-01 1.2432E+00) (6.4635E-01 1.2331E+00) (7.0190E-01 1.2231E+00)
+(7.5834E-01 1.2130E+00) (8.0324E-01 1.2030E+00) (8.3075E-01 1.1929E+00)
+(8.5116E-01 1.1828E+00) (8.6820E-01 1.1727E+00) (8.8310E-01 1.1627E+00)
+(8.9641E-01 1.1527E+00) (9.0848E-01 1.1425E+00) (9.1860E-01 1.1324E+00)
+(9.2730E-01 1.1223E+00) (9.3475E-01 1.1122E+00) (9.4167E-01 1.1021E+00)
+(9.4841E-01 1.0919E+00) (9.5480E-01 1.0817E+00) (9.6013E-01 1.0716E+00)
+(9.6439E-01 1.0615E+00) (9.6776E-01 1.0515E+00) (9.7060E-01 1.0407E+00)
+(9.7291E-01 1.0299E+00) (9.7486E-01 1.0190E+00) (9.7663E-01 1.0080E+00)
+(9.7823E-01 9.9782E-01) (9.8001E-01 9.8706E-01) (9.8196E-01 9.7630E-01)
+(9.8391E-01 9.6612E-01) (9.8586E-01 9.5606E-01) (9.8799E-01 9.4542E-01)
+(9.9012E-01 9.3524E-01) (9.9225E-01 9.2518E-01) (9.9420E-01 9.1498E-01)
+(9.9580E-01 9.0400E-01) (9.9687E-01 8.9186E-01) (9.9740E-01 8.7990E-01)
+(9.9775E-01 8.6280E-01) (9.9793E-01 8.4818E-01) (9.9811E-01 8.2718E-01)
+(9.9828E-01 7.9518E-01) (9.9846E-01 7.4066E-01) (9.9864E-01 6.4712E-01)
+(9.9882E-01 5.1380E-01) (9.9899E-01 3.3476E-01) (1.0000E+00 0.0000E+00)
.IC         V(60)=0
.IC         V(50)=1
.ENDS
*$
*PSpice Alkaline battery discharge model
.SUBCKT ALKALINE +OUTPUT -OUTPUT SOC RATE
+ PARAMS: CAPACITY=1, RESISTANCE=1
.PARAM NCAPACITY={CAPACITY * (0.85 + 8.64E-3 * TEMP - 1.05E-4 * TEMP*TEMP)}
E_Rate RATE 0 VALUE = {I(V_Sense)/NCAPACITY}
R2 RATE 60 10 ; R2-C1 -> 10 Second time constant
C1 60 0 1
G_Discharge SOC 0 VALUE = { I(V_Sense) } ; Discharge Current
E_Lost_Rate 50 SOC TABLE { V(60) } =
* * Use one of the following tables!!! * *
;----- Use this table for N cells -----
+ (0.0,0.0) (0.019,0.056) (0.043,0.13) (0.072,0.28)
+ (0.12,0.39) (0.21,0.58) (0.31,0.69)
;----- Use this table for AAA and AA cells -----
;+ (0.0,0.0) (0.018,0.08) (0.043,0.14) (0.08,0.2)
;+ (0.14,0.3) (0.26,0.48) (0.4,0.6)
;----- Use this table for C cells -----
;+ (0.0,0.0) (0.017,0.13) (0.035,0.31) (0.055,0.45)
;+ (0.093,0.53) (0.17,0.65) (0.27,0.73)
;----- Use this table for D cells -----
;+ (0.0,0.0) (0.0091,0.091) (0.017,0.15) (0.032,0.36)
;+ (0.058,0.42) (0.079,0.61) (0.13,0.73) (0.18,0.82)
C_CellCapacity 50 0 {3600*NCAPACITY*1.01}
R1 50 0 1G
E_Resistance 20 10 VALUE = {I(V_Sense)*RESISTANCE*V(Cell_Res)}
E_Cell_R Cell_Res 0 TABLE {V(50)} = (0,2) (0.2,1) (1,1)
R3 Cell_Res 0 1G
V_Sense -OUTPUT 20 0
E_Invert Invert 0 TABLE {V(SOC)} = (0,1) (1,0)
R4 Invert 0 1G
E_Cell +OUTPUT 10 TABLE {V(Invert)} =
+ (0.000E+00 1.528E+00) (2.320E-03 1.511E+00) (4.640E-03 1.500E+00)
+ (9.280E-03 1.481E+00) (1.392E-02 1.468E+00) (1.856E-02 1.457E+00)
+ (2.552E-02 1.442E+00) (3.248E-02 1.430E+00) (3.944E-02 1.419E+00)
+ (4.872E-02 1.406E+00) (5.800E-02 1.394E+00) (6.728E-02 1.380E+00)
+ (7.656E-02 1.370E+00) (1.206E-01 1.326E+00) (2.691E-01 1.230E+00)
+ (5.522E-01 1.126E+00) (8.213E-01 1.021E+00) (9.025E-01 9.901E-01)
+ (9.257E-01 9.792E-01) (9.443E-01 9.676E-01) (9.559E-01 9.564E-01)
+ (9.628E-01 9.445E-01) (9.698E-01 9.299E-01) (9.744E-01 9.181E-01)
+ (9.791E-01 9.043E-01) (9.814E-01 8.937E-01) (9.837E-01 8.800E-01)
+ (9.860E-01 8.654E-01) (9.884E-01 8.470E-01) (9.907E-01 8.040E-01)
+ (9.930E-01 6.417E-01) (9.953E-01 3.795E-01) (9.976E-01 3.354E-01)
+ (1.0 0.0)
.IC         V(60)=0
.IC         V(50)=1
.ENDS
*$
*PSpice 9 Volt Alkaline battery discharge model
.SUBCKT ALK_9V +OUTPUT -OUTPUT SOC RATE
+ PARAMS: CAPACITY=0.565
E_Rate RATE 0 VALUE = {I(V_Sense)/CAPACITY}
R2 RATE 60 10 ; R2-C1 -> 10 Second time constant
C1 60 0 1
G_Discharge SOC 0 VALUE = {I(V_Sense)} ; Discharge Current
E_Lost_Rate 50 SOC TABLE {V(60)} =(0.0,0.0) (0.025,0.009) 
+(0.046,0.080) (0.088,0.14) (0.18,0.21) (0.71,0.45)
C_CellCapacity 50 0 {3600*CAPACITY*1.06}
R1 50 0 1G
E_Resistance 20 10 VALUE = {I(V_Sense)*2.0*V(Cell_Res)}
E_Cell_R Cell_Res 0 TABLE {V(50)} = (0,4) (0.2,2) (1,1)
R3 Cell_Res 0 1G
V_Sense -OUTPUT 20 0
E_Invert Invert 0 TABLE {V(SOC)} = (0,1) (1,0)
R4 Invert 0 1G
E_Cell +OUTPUT 10 TABLE {V(Invert)} =
+ (0.00 9.18) (0.05 8.82) (0.10 8.62)
+ (0.15 8.41) (0.20 8.30) (0.25 8.21)
+ (0.30 8.09) (0.35 7.99) (0.40 7.95)
+ (0.45 7.89) (0.50 7.79) (0.55 7.66)
+ (0.60 7.55) (0.70 7.18) (0.75 6.96)
+ (0.80 6.58) (0.85 6.12) (0.90 5.42)
+ (0.95 4.51) (1.00 0.00)
.IC         V(60)=0
.IC         V(50)=1
.ENDS
*$
*PSpice Lead-Acid battery discharge model
.SUBCKT LEADACID +OUTPUT -OUTPUT SOC RATE
+ PARAMS: CAPACITY=1, RESISTANCE=1, CELLS=3
E_Rate RATE 0 VALUE = {I(V_Sense)/CAPACITY}
R2 RATE 60 60 ;R2-C1 = 60 SECOND DELAY
C1 60 0 1
G_Discharge SOC 0 VALUE = { I(V_Sense) } ; Discharge Current
E_Lost_Rate 50 SOC TABLE { V(60) } =
+ (0.05,0.0) (0.089,0.11)(0.16,0.20)(0.62,0.39)(0.8,0.47) (1.6,0.44)
C_CellCapacity 50 0 {3600*CAPACITY*1.15}
R1 50 0 1G
R_Cell 10 20 {RESISTANCE}
E_Battery +OUTPUT 10 VALUE = {V(Cell_V)*CELLS}
V_Sense -OUTPUT 20 0
E_Invert Invert 0 TABLE {V(SOC)} = (0,1) (1,0)
R4 Invert 0 1G
R5 Cell_V 0 1G
E_Cell Cell_V 0 TABLE {V(Invert)} =
+ (0.000E+00 2.171E+00) (5.222E-04 2.149E+00) (1.828E-03 2.128E+00)
+ (1.263E-01 2.101E+00) (4.908E-01 2.001E+00) (6.385E-01 1.949E+00)
+ (7.459E-01 1.900E+00) (7.834E-01 1.875E+00) (8.117E-01 1.850E+00)
+ (8.313E-01 1.826E+00) (8.436E-01 1.801E+00) (8.517E-01 1.773E+00)
+ (8.556E-01 1.750E+00) (8.591E-01 1.724E+00) (8.616E-01 1.702E+00)
+ (8.646E-01 1.676E+00) (8.677E-01 1.648E+00) (8.707E-01 1.623E+00)
+ (8.732E-01 1.600E+00) (8.850E-01 1.499E+00) (8.965E-01 1.401E+00)
+ (9.000E-01 1.333E+00) (1.000E+00 0.000E+00)
.IC         V(60)=0
.IC         V(50)=1
.ENDS
*$
