*$ model description: "awbbuf03"
*a Device model created by analog_uprev for buf03 on Tue Feb 27 18:26:52 IST 2001


.subckt awbbuf03   1 5 3 4
RPS 3 4 1765
VP 3 9 3
VM 4 6 -3
D1 1 9 DBUF
J1 6 1 7 PBUF
J2 6 0 8 PBUF
CLIM 7 8 1.5P
ID1 7 9 -.5M
ID2 8 9 -.5M
GCNTL 0 10 POLY(2) 7 8 13 0 -6M 1 -1
RPOLE 10 0 100
CPOLE 10 0 7N
EBUFF 11 0 10 0 2.40
RPOLE2 11 12 147
RLIM 12 13 12
ROUT 13 5 2
CPAR 13 0 10PF
DLIM1 12 14 DBUF
DLIM2 14 12 DBUF
ELIM 14 0 5 0 1
.MODEL DBUF D IS=1F N=1
* SPECTRE: + IMAX=1000
.MODEL PBUF PJF VTO=-1 BETA=4M LAMBDA=.01 IS=75P
.ends
*$ end model description: "awbbuf03"
*
*
*$ model description: "awbha5002"
*a Device model created by analog_uprev for ha5002 on Tue Feb 27 18:26:52 IST 2001


.subckt awbha5002   6 3 22 16 12 7
RR87 8 28 1MEG TC=0 0
RR86 8 27 1MEG TC=0 0
EV95 27 8 3 8 1
EV94 28 8 7 8 1
VV92 8 9 142
VV91 13 8 142
RR85 3 25 1 TC=0 0
GV87 25 3 3 0 500M
RR84 25 8 1 TC=0 0
GV86 25 8 7 0 500M
II12 28 21 4M
RR64 18 16 1 TC=0 0
RR63 16 14 1 TC=0 0
QQ19 22 20 18  M1M2N4402 1
.MODEL M1M2N4402 PNP TR=43.55N ITF=617.73M VJC=1.91 NC=1 KF=0 VJE=1
+ NE=1.74 NF=1.073 BR=4.12 RB=7 CJC=21P RC=800M VAR=500 CJE=26P
+ RE=50M PTF=0 MJS=500M XCJC=500M TF=636.62P XTB=2.46 IS=140.81F VTF=
+ 2.96 IKF=500M MJC=633M AF=1 BF=100 XTF=22.59 NR=1.073 MJE=252M VJS=
+ 700M FC=500M VAF=125 XTI=3 ISC=0 EG=1.11 CJS=0 ISE=964.74F
+ RBM=7
QQ18 17 21 14  M2M2N4401 1
.MODEL M2M2N4401 NPN TR=117.5N ITF=216.3M VJC=1.333 NC=1 KF=0 VJE=
+ 1.333 NE=1.776 NF=1.074 BR=2.394 RB=676M CJC=11P RC=654M VAR=
+ 500 CJE=25P RE=100M PTF=0 MJS=500M XCJC=500M TF=454.4P XTB=2.34 IS=
+ 166.78F VTF=4.83 IKF=500M MJC=518M AF=1 BF=80 XTF=13.24 NR=1.074
+ MJE=522M VJS=700M FC=500M VAF=78 XTI=3 ISC=0 EG=1.11 CJS=0
+ ISE=3.92P RBM=676M
QQ15 27 19 21  M3MIDEALPNP 1
.MODEL M3MIDEALPNP PNP BF=75
II9 20 27 4.5M
RR56 7 3 3.614K TC=0 0
DD22 10 5 M4MDB1
.MODEL M4MDB1 D IS=10F
* SPECTRE: + IMAX=1000
DD20 5 11 M4MDB1
RR42 8 5 2 TC=0 0
VV48 10 3 2.43
VV47 7 11 2.43
RR39 8 19 100M TC=0 0
GV44 8 19 2 8 10
RR38 8 2 100MEG TC=0 0
EV43 2 8 5 8 1
CC31 5 8 1.1U TC=0
DD26 9 4 M4MDB1
DD27 4 13 M4MDB1
GV62 8 4 1 8 100
RR51 8 4 1 TC=0 0
RR52 8 1 2.1 TC=0 0
GV64 8 1 15 2 500M
RR54 2 15 1.43K TC=0 0
VV65 6 15 5.87M
II6 8 6 2U
GV66 8 5 4 8 10
CC42 1 8 1N TC=0
QQ21 28 19 20  M5MIDEALNPN 1
.MODEL M5MIDEALNPN NPN BF=100
RR88 17 12 10 TC=0 0
.ends
*$ end model description: "awbha5002"
*
*
*$ model description: "awbha5033"
*a Device model created by analog_uprev for ha5033 on Tue Feb 27 18:26:52 IST 2001


.subckt awbha5033   7 12 3 6
*START OF DECK
*      A  B  C  D
*NODE: 6  3  12 7
VV92 8 9 221
VV91 13 8 138
RR85 3 25 1 TC=0 0
GV87 25 3 3 0 499.999970M
RR84 25 8 1 TC=0 0
GV86 25 8 7 0 499.999970M
RR56 7 3 1.142860K TC=0 0
DD22 10 5 M1MDB1
.MODEL M1MDB1 D IS=10.000000F
* SPECTRE: + IMAX=1000
DD20 5 11 M1MDB1
RR42 8 5 2 TC=0 0
VV48 10 3 2.5
VV47 7 11 2.5
RR39 8 12 5 TC=0 0
GV44 8 12 2 8 200.000000M
RR38 8 2 100.000000MEG TC=0 0
EV43 2 8 5 8 1
CC31 5 8 1.100000U
DD26 9 4 M1MDB1
DD27 4 13 M1MDB1
GV62 8 4 1 8 100
RR51 8 4 1 TC=0 0
RR52 8 1 1 TC=0 0
GV64 8 1 15 2 1.7
RR54 2 15 450 TC=0 0
II6 8 6 20.000000U
GV66 8 5 4 8 10
CC42 1 8 1.000000N
EV93 6 15 16 0 1
RR86 16 0 1 TC=5.600000M 0
II7 0 16 6.250000M
.ends
*$ end model description: "awbha5033"
*
*
*$ model description: "awblh0002"
*a Device model created by analog_uprev for lh0002 on Tue Feb 27 18:26:52 IST 2001


.subckt awblh0002   5 12 9 11 3 4
QQ1 4 5 6  M1M2N2222 1
.MODEL M1M2N2222 NPN IS=166.780000F BF=150 NF=1.074 VAF=78 IKF=
+ 499.999970M ISE=3.920000P NE=1.776 BR=2.394 NR=1.074 VAR=500
+ ISC=0 NC=1 RB=675.999940M RBM=675.999940M RE=100.000000M RC=
+ 653.999940M CJE=22.250000P VJE=1.333 MJE=522.000000M TF=454.399990P
+ XTF=13.24 VTF=4.83 ITF=216.299990M PTF=0 CJC=8.370000P VJC=1.333
+ MJC=518.000000M XCJC=499.999970M TR=117.500010N CJS=0 VJS=
+ 699.999940M MJS=499.999970M XTB=2.34 EG=1.11 XTI=3 KF=0 AF=1 FC=
+ 499.999970M
QQ2 3 2 1  M1M2N2222 1
QQ3 12 5 2  M2M2N2907 1
.MODEL M2M2N2907 PNP IS=140.810000F BF=150 NF=1.073 VAF=125 IKF=
+ 499.999970M ISE=964.739990F NE=1.74 BR=4.12 NR=1.073 VAR=500
+ ISC=0 NC=1 RB=7 RE=50.000000M RC=800.000000M CJE=29.000000P
+ VJE=1 MJE=251.999980M TF=636.620000P XTF=22.59 VTF=2.96 ITF=
+ 617.729980M PTF=0 CJC=16.000000P VJC=1.91 MJC=633.000000M XCJC=
+ 499.999970M TR=43.550000N CJS=0 VJS=699.999940M MJS=499.999970M XTB=
+ 2.46 EG=1.11 XTI=3 KF=0 AF=1 FC=499.999970M
RR1 2 4 5.000000K TC=0 0
RR2 12 6 5.000000K TC=0 0
RR3 11 1 2 TC=0 0
QQ5 9 6 7  M2M2N2907 1
RR4 7 11 2 TC=0 0
.ends
*$ end model description: "awblh0002"
*
*
*$ model description: "awblh0033"
*a Device model created by analog_uprev for lh0033 on Tue Feb 27 18:26:52 IST 2001


.subckt awblh0033   5 11 12 10
*             IN OUT VC+ VC- V+ V- ADJUST PRESET
*.SUBCKT LH0033 5 11   1   9  12 10    7   6
*
* INPUT SATGE
*
RIN 4 99 1E+11
VOS 4 5 0.005
GIB 99 5 POLY(2) 30 0 12 10  0 0.7 0 0 -0.095 0 0 0 0.0035
IIB 30 99 6E-11
RIB 30 99 1 TC=0.077778 2.044444E-3
*
* INTERMEDIATE STAGE
*
GA 99 8 4 99 1.33086E-4
C1 8 15 1.5E-11
R1 8 99 7.47E+3
GB 99 15 8 99 0.1653
C2 15 99 1E-14
R2 15 99 6
*
* OUTPUT STAGE
*
* FOR OUTPUT CURRENT LIMITING
D3 15 16 DMOD3
D4 17 15 DMOD3
D5 17 20 DMOD3
D6 20 16 DMOD3
IMAXX 16 17 0.25
.MODEL DMOD3 D IS=8E-16
* SPECTRE: + IMAX=1000
* FOR OUTPUT VOLTAGE SWING
D1 11 18 DMOD
D2 19 11 DMOD
VD 12 18 3
VS 10 19 -3
.MODEL DMOD D  IS=1E-16
* SPECTRE: + IMAX=1000
* FOR SUPPLY CURRENT
RSUP 32 99 1E-5 TC=0.433 5.69444E-4
ISUP 32 99 1
GSUP 12 7 12 7 0.0148  
GSUPT 12 7 99 32 1
* OUTPUT CURRENT REDIRECTION TO PROPER SUPPLY PINS
VI0 20 11
FI1 0 40 VI0 1
VFI2 0 42
VFI3 41 0
DFI2 42 40 DMOD3
DFI3 40 41 DMOD3
FI2 7 99 VFI2 1
FI3 12 99 VFI3 1
*
* DUMMY RESISTOR TO TIED PIN 7 TO GROUND
*
R99 7 10 1
* FOR REFERANCE POINT
EREF1 99 10 12 10 0.5
.ends
*$ end model description: "awblh0033"
*
*
*$ model description: "awblh0063"
*a Device model created by analog_uprev for lh0063 on Tue Feb 27 18:26:52 IST 2001


.subckt awblh0063   1 30 25 28
*******************
R1  1 0 1E+11
C1  2 0 8PF
E9  2 1 25 28 0.347M
*********************
R2  42 43 3E+11 TC=-17.15M
V11 43 0 DC 0
F4  1 0 V11 1
E10 42 0 25 28 1
*******************
E1  3 29 2 29 0.96
R3  3 4 0.796K
C2  4 29 1PF
*******************
E40 41 29 4 29 1
R40 41 40 0.796K
C3  40 29 1PF
*******************
E2  5 29 40 29 1
R4  5 6 0.685MEG
L   6 7 1M
C4  7 29 7.815E-16
G1 29 7 16 0 4.689E-8
*******************
G2  0 8 1 29 1
D2  9 8 MD2
D3  8 10 MD2
R5  8 11 100
V1  0 9 DC 50
V2  10 0 DC 50
.MODEL MD2 D
* SPECTRE: + IMAX=1000
E3  0 11 7 29 104.17
*******************
E4  12 0 8 10 2
D4  12 13 MD2
R6  13 0 .1K
*******************
E5  14 0 8 9 2
D5  15 14 MD2
R7  15 0 .1K
*******************
G21 0 16 13 0 1
G22 0 16 15 0 1
R8  16 0 1MEG
D6  17 16 MD2
D7  16 18 MD2
V3  0 17 DC 100
V4  18 0 DC 100
*****************
G3  29 19 7 29 10
R9  19 29 0.1
D8  19 20 MD3
D9  20 19 MD3
.MODEL MD3 D N=0.2467 EG=0.5
* SPECTRE: + IMAX=1000
E6  20 29 30 29 1
R10 19 21 0.9
*****************
D12 30 23 MD2
D13 26 30 MD2
E7  24 23 25 29 0.05
E8  27 26 28 29 0.05
V6  25 24 DC 2.05
V7  27 28 DC 2.05
*****************
R11 25 29 2K TC=-0.0025
R12 29 28 2K TC=-0.0025
J1  25 28 28 JMOD
.MODEL JMOD NJF(VTO=-14.5 BETA=0.25M)
****************
F1  0 31 V8 1
V8  21 30 DC 0
F2 25 29 V9 1
V9  32 0 DC 0
F3  29 28 V10 1
V10 0 33 DC 0
D10 31 32 MD2
D11 33 31 MD2
*****************
*VCC 25 0 DC 15
*VEE 0 28 DC 15
.ends
*$ end model description: "awblh0063"
*
*
*$ model description: "awblm110"
*a Device model created by analog_uprev for lm110 on Tue Feb 27 18:26:52 IST 2001


.subckt awblm110   2 6 7 4
* +VIN=2 -VIN=3(NOT CONNECTED) VOUT=6 V+=7 V-=4
* UNIT GAIN BUFFER
IB 0 2 1E-9
VOF 2 1 1.5E-3
RI 1 5 0.1E3
G1 0 8 1 5 1
R1 8 0 1.333
C1 8 0 18.615E-9
G2 0 9 8 0 1
R2 9 0 1
C2 9 0 1.5E-9
G3 0 10 9 0 0.6667E3
R3 10 0 1
D1 10 11 DB1
D2 12 10 DB1
V1 11 0 4.7
V2 0 12 3.65
G4 0 13 10 0 1.5E-3
R4 13 0 4995.66E6
C4 13 0 0.2E-9
D3 13 14 DB1
D4 15 13 DB1
V3 7 14 2.71
V4 15 4 2.71
E1 5 0 13 0 1
RO1 5 0 100E6
GO 0 6 5 0 1.846E-3
RO2 6 0 541.7
RP 7 4 7.69E3
.MODEL DB1 D IS=10E-15
* SPECTRE: + IMAX=1000
.ends
*$ end model description: "awblm110"
*
*
*$ model description: "awblm210"
*a Device model created by analog_uprev for lm210 on Tue Feb 27 18:26:52 IST 2001


.subckt awblm210   2 6 7 4
* +VIN=2 -VIN=3(NOT CONNECTED) VOUT=6 V+=7 V-=4
* UNIT GAIN BUFFER
IB 0 2 1E-9
VOF 2 1 1.5E-3
RI 1 5 0.1E3
G1 0 8 1 5 1
R1 8 0 1.333
C1 8 0 18.615E-9
G2 0 9 8 0 1
R2 9 0 1
C2 9 0 1.5E-9
G3 0 10 9 0 0.6667E3
R3 10 0 1
D1 10 11 DB1
D2 12 10 DB1
V1 11 0 4.7
V2 0 12 3.65
G4 0 13 10 0 1.5E-3
R4 13 0 4995.66E6
C4 13 0 0.2E-9
D3 13 14 DB1
D4 15 13 DB1
V3 7 14 2.71
V4 15 4 2.71
E1 5 0 13 0 1
RO1 5 0 100E6
GO 0 6 5 0 1.846E-3
RO2 6 0 541.7
RP 7 4 7.69E3
.MODEL DB1 D IS=10E-15
* SPECTRE: + IMAX=1000
.ends
*$ end model description: "awblm210"
*
*
*$ model description: "awblm310"
*a Device model created by analog_uprev for lm310 on Tue Feb 27 18:26:52 IST 2001


.subckt awblm310   2 55 7 4
* +VIN=2 -VIN=3(NOT CONNECTED) VOUT=55 V+=7 V-=4
* UNIT GAIN BUFFER
IB 0 2 2E-9
VOF 2 1 2.5E-3
RI 1 5 0.1E3
G1 0 8 1 5 1
R1 8 0 1.333
C1 8 0 18.615E-9
G2 0 9 8 0 1
R2 9 0 1
C2 9 0 1.5E-9
G3 0 10 9 0 0.6667E3
R3 10 0 1
D1 10 11 DB1
D2 12 10 DB1
V1 11 0 4.7
V2 0 12 3.65
G4 0 13 10 0 1.5E-3
R4 13 0 4995.66E6
C4 13 0 0.2E-9
D3 13 14 DB1
D4 15 13 DB1
V3 7 14 2.71
V4 15 4 2.71
E1 5 0 13 0 1
RO1 5 0 100E6
GO 0 6 5 0 1.846
RO2 6 0 .5417
RP 7 4 7.69E3
.MODEL DB1 D IS=10E-15
* SPECTRE: + IMAX=1000
*BEGIN FOR DEBUG
DD8 6 99 M1M310
.MODEL M1M310 D N=300.000000M
* SPECTRE: + IMAX=1000
DD7 99 6 M1M310
RR10 0 55 10.000000MEG TC=0 0
EV14 99 0 55 0 1
RR9 6 55 10 TC=0 0
*END FOR DEBUG
.ends
*$ end model description: "awblm310"
*
*
